// Generated for: spectre
// Generated on: Mar  8 21:02:48 2018
// Design library name: ajgrosze_scratch
// Design cell name: single_inv_sim
// Design view name: schematic
simulator lang=spectre
global 0
parameters vdc=1.2
include "/misc/scratch/ajgrosze/lpr/schematics/models/32nm_LP.pm"

// Library name: ajgrosze_scratch
// Cell name: inv
// View name: schematic
subckt inv in out vdd
    M0 (out in 0 0) nmos w=128n l=32n
    M1 (out in vdd vdd) pmos w=256n l=32n
ends inv
// End of subcircuit definition.

// Library name: ajgrosze_scratch
// Cell name: single_inv_sim
// View name: schematic
I0 (net5 vout net3) inv
V1 (net3 0) vsource dc=vdc type=dc
V0 (net5 0) vsource dc=0 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vdc start=0 stop=1.2 step=0.01 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I0.M0:s vout I0:1 I0:2 I0:3 
saveOptions options save=allpub
