// Generated for: spectre
// Generated on: Oct 18 00:20:03 2017
// Design library name: ee315_wrk
// Design cell name: example_pss
// Design view name: schematic
simulator lang=spectre
global 0
parameters Cl=1p N=10 Ts=1n
include "/afs/ir.stanford.edu/class/ee315/models/ee315.mod"

// Library name: ee315_wrk
// Cell name: example_pss
// View name: schematic
V1 (clk 0) vsource type=pulse val0=0 val1=1 period=Ts delay=Ts/2
V0 (in 0) vsource pacmag=1 type=dc
I2 (in net7 clk 0) relay vt1=499m vt2=501m ropen=1T rclosed=1m
R0 (net7 out) resistor r=(Ts/2)/(N*Cl)
C0 (out 0) capacitor c=Cl
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
pss  pss  fund=1G  harms=0  errpreset=moderate  maxacfreq=200G
+    annotate=status
pac  (  clk  0  )  pac  crossingdirection=rise  thresholdvalue=0.1
+    ptvtype=sampled  start=1k  stop=2G  lin=100  maxsideband=0
+    annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
