// Generated for: spectre
// Generated on: Feb 17 00:16:56 2018
// Design library name: ajgrosze_scratch
// Design cell name: nmos_vth
// Design view name: schematic
simulator lang=spectre
global 0
parameters len=32n vds_sweep=1.2 vbsweep=0 Vsweep=1
include "/home/ecelrc/students/agroszewski/lpr/schematics/models/32nm_LP.pm"

// Library name: ajgrosze_scratch
// Cell name: nmos_vth
// View name: schematic
M0 (net3 Vin 0 net03) nmos w=320.00n l=len
Vbs (net03 0) vsource dc=vbsweep type=dc
Vds (net3 0) vsource dc=vds_sweep type=dc
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=Vsweep start=0 stop=1.0 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save M0:d 
saveOptions options save=allpub
