// Generated for: spectre
// Generated on: Mar  8 18:36:38 2018
// Design library name: ajgrosze_scratch
// Design cell name: inv_chain
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters vdc=0 vsource=0.6
include "/misc/scratch/ajgrosze/lpr/schematics/models/32nm_LP.pm"

// Library name: ajgrosze_scratch
// Cell name: inv
// View name: schematic
subckt inv in out vdd
    M0 (out in 0 0) nmos w=128n l=32n
    M1 (out in vdd vdd) pmos w=256n l=32n
ends inv
// End of subcircuit definition.

// Library name: ajgrosze_scratch
// Cell name: inv_chain
// View name: schematic
V2 (vdd! 0) vsource dc=vdc type=dc
V1 (net017 0) vsource dc=vsource type=dc
V0 (net014 0) vsource type=pulse val0=0 val1=vsource period=6n width=1n
inv9 (net03 out net017) inv
inv8 (net05 net03 net017) inv
inv7 (net06 net05 net017) inv
inv6 (net04 net06 net017) inv
inv5 (net07 net04 net017) inv
inv4 (net08 net07 net017) inv
inv3 (net09 net08 net017) inv
inv2 (net010 net09 net017) inv
inv1 (net012 net010 net017) inv
inv0 (net014 net012 net017) inv
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=6n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V1:p V1:p 
saveOptions options save=allpub
