// Generated for: spectre
// Generated on: Oct 31 22:18:33 2017
// Design library name: ee315_wrk
// Design cell name: comparator_tb
// Design view name: schematic
simulator lang=spectre
global 0
parameters vdd=1.8 vic=0.9 vid=100m
include "/afs/ir.stanford.edu/class/ee315/models/ee315.mod"

// Library name: ee315
// Cell name: ideal_balun
// View name: schematic
subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun
// End of subcircuit definition.

// Library name: ee315
// Cell name: comparator
// View name: schematic
subckt comparator str vdd vim vip vom vop vss inh_bulk_n
    I0 (net9 vss) isource dc=20u type=dc
    M0 (vom vip net9 inh_bulk_n) nmos w=3u l=0.18u
    M1 (vop vim net9 inh_bulk_n) nmos w=3u l=0.18u
    M2 (vop vom vdd vdd) pmos w=3u l=0.18u
    M3 (vom vop vdd vdd) pmos w=3u l=0.18u
    M4 (vop str vom vdd) pmos w=0.5u l=0.18u
    M5 (vom str vop vdd) pmos w=0.5u l=0.18u
ends comparator
// End of subcircuit definition.

// Library name: ee315_wrk
// Cell name: comparator_tb
// View name: schematic
V2 (vic 0) vsource dc=vic type=dc
V3 (vid 0) vsource dc=vid mag=0 type=dc
V0 (vdd 0) vsource dc=vdd type=dc
I4 (vid vic vip vim) ideal_balun
I7 (vod net012 vop vom) ideal_balun
V5 (str 0) vsource type=pwl wave=[ 5n 0 5.2n vdd ]
I3 (str vdd vim vip vom vop 0 0) comparator
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=15n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
capInfo_dc info what=captab where=rawfile threshold=0.0 detail=node \
    sort=name
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
