// Generated for: spectre
// Generated on: Feb 17 00:44:53 2018
// Design library name: ajgrosze_scratch
// Design cell name: nmos_stack_compare
// Design view name: schematic
simulator lang=spectre
global 0 vss!
parameters vgs=0
include "/home/ecelrc/students/agroszewski/lpr/schematics/models/32nm_LP.pm"

// Library name: ajgrosze_scratch
// Cell name: nmos_stack_compare
// View name: schematic
Mstack_top (net07 net03 net04 vss!) nmos w=320n l=32n
Mstack_bot (vss! net03 net07 vss!) nmos w=320n l=32n
Msingle (vss! net03 net04 vss!) nmos w=320n l=32n
V1 (net03 vss!) vsource dc=vgs type=dc
V0 (net04 vss!) vsource dc=1.2 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc param=vgs start=0 stop=1.2 write="spectre.dc" oppoint=rawfile \
    maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save Msingle:d Mstack_bot:d Msingle:s Mstack_bot:s 
saveOptions options save=allpub
