// Generated for: spectre
// Generated on: Oct  5 21:18:49 2017
// Design library name: example
// Design cell name: rc_lpf
// Design view name: schematic
simulator lang=spectre
global 0
parameters V=0 vdc=1
include "/afs/ir.stanford.edu/class/ee315/models/ee315.mod"

// Library name: example
// Cell name: rc_lpf
// View name: schematic
R0 (in out) resistor r=500K
C0 (out 0) capacitor c=10p
V0 (in 0) vsource dc=vdc mag=1V type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=1 stop=100G annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
